US06740670B2
2-(2,4-Difluorobenzyloxy)-5-formylbenzoic acid was prepared from 2,4-difluorobenzyl 2-(2,4-difluorobenzyloxy)-5-formylbenzoate (1.2 g, 1 eq) using the same procedure as for 2-benzyloxy-5-formylbenzoic acid. The product was obtained as a white powder (746 mg, 89%). 1H NMR (CDCl3) δ9.97 (s, 1H, O═C—H), 5.37 (s, 2H, CH2Ar).

reactant | 2,4-difluorobenzyl 2-(2,4-difluorobenzyloxy)-5-formylbenzoate | 1.2 g, 1 eq | FC1=C(COC2=C(C(=O)OCC3=C(C=C(C=C3)F)F)C=C(C=C2)C=O)C=CC(=C1)F | C22H14F4O4
reactant | 2-benzyloxy-5-formylbenzoic acid | C(C1=CC=CC=C1)OC1=C(C(=O)O)C=C(C=C1)C=O | C15H12O4
product | 2-(2,4-Difluorobenzyloxy)-5-formylbenzoic acid | FC1=C(COC2=C(C(=O)O)C=C(C=C2)C=O)C=CC(=C1)F | C15H10F2O4
